US06166006
In 1,2-dimethoxyethane (4 ml) were dissolved ethyl 6-bromo-2-pyridineacrylate (512 mg, 2.00 mmol) and 4-methylphenyl borate (299 mg, 2.20 mmol), and to the mixture were added sodium carbonate (424 mg, 4.00 mmol), water (2 ml) and tetrakis-(triphenylphosphine)palladium (116 mg, 0.10 mmol). The mixture was stirred at 80° C. for 10 hours. To complete the reaction, 4-tolyl borate (150 mg, 1.10 mmol) and tetrakis(triphenyl-phosphine)palladium (116 mg, 0.10 mmol) were added at 80° C. to the mixture, and the mixture was stirred for 14 hours. To the mixture was added ethyl acetate (30 ml), and the mixture was water (5 ml×2) and saturated brine (5 ml). The organic layer was dried with anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified with column chromatography (silica gel 15 g, ethyl acetate/hexane=1/19), and the desired fraction was concentrated under reduced pressure to give ethyl 6-(4-methylphenyl)-2-pyridineacrylate (495 mg, 1.85 mmol, 93%).

reactant | ethyl 6-bromo-2-pyridineacrylate | 2.00 mmol, 512 mg | BrC1=CC=CC(=N1)C=CC(=O)OCC | C10H10BrNO2
reactant | 4-methylphenyl borate | 2.20 mmol, 299 mg | B(OC1=CC=C(C=C1)C)([O-])[O-]
reactant | sodium carbonate | 4.00 mmol, 424 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-tolyl borate | 1.10 mmol, 150 mg | B(OC1=CC=C(C=C1)C)([O-])[O-]
solvent | 1,2-dimethoxyethane | 4 ml | COCCOC | C4H10O2
solvent | brine | 5 ml | [Cl-].[Na+].O
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 2 ml | O | H2O
product | ethyl 6-(4-methylphenyl)-2-pyridineacrylate | 1.85 mmol, 495 mg, 93% | CC1=CC=C(C=C1)C1=CC=CC(=N1)C=CC(=O)OCC | C17H17NO2
